US07662972B2
Step 4: Production of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylbenzoic acid amide
In a mixture of 3.0 g of concentrated ammonia water and 15 ml of tetrahydrofuran, a solution of 3.0 g of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylbenzoyl chloride in 20 ml of tetrahydrofuran was added dropwise, after the completion of the addition, continued to stir further for 18 hours. After the completion of the reaction, the solvent was distilled off under reduced pressure, the residue was dissolved in 50 ml of ethyl acetate, washed with 50 ml of water, dehydrated and dried with saturated sodium chloride aqueous solution and anhydrous sodium sulfate in that order, and the solvent was distilled off under reduced pressure to obtain 2.9 g of the aimed product as orange crystal.

reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylbenzoyl chloride | 3.0 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)Cl)C=C1)C)C(F)(F)F | C18H11Cl3F3NO2
reactant | ammonia water | 3.0 g | O.N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylbenzoic acid amide | 2.9 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)N)C=C1)C)C(F)(F)F | C18H13Cl2F3N2O2
